US06166006
To a mixture of N-[4-(hydroxymethyl)phenyl]-7-(4-methylphenyl)-3,4-dihydronaphthalene-2-carboxamide (2.20 g), lithium chloride (505 mg), triethylamine (1.67 ml), DMAP [4-dimethylaminopyridine] (catalytic amount) and dichloromethane (200 ml) was added methanesulfonyl chloride (645 μl), and the mixture was stirred at room temperature for 42 hours and concentrated under reduced pressure. To the residue was added 0.5N hydrochloric acid (200 ml), and the mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give N-[4-(chloromethyl)-phenyl]-7-(4-methylphenyl)-3,4-dihydronaphthalene-2-carboxamide (973 mg) as colorless crystals.

reactant | N-[4-(hydroxymethyl)phenyl]-7-(4-methylphenyl)-3,4-dihydronaphthalene-2-carboxamide | 2.20 g | OCC1=CC=C(C=C1)NC(=O)C1=CC2=CC(=CC=C2CC1)C1=CC=C(C=C1)C | C25H23NO2
reactant | lithium chloride | 505 mg | [Cl-].[Li+]
reactant | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 645 μl | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-[4-(chloromethyl)-phenyl]-7-(4-methylphenyl)-3,4-dihydronaphthalene-2-carboxamide | 973 mg | ClCC1=CC=C(C=C1)NC(=O)C1=CC2=CC(=CC=C2CC1)C1=CC=C(C=C1)C | C25H22ClNO
